### PR TITLE
arch-split Retype_R

### PR DESCRIPTION
**Pull request by Xaphiosis**
🦆🦆🦆 This PR has the same diff-reducing tech as the TcbAcc_R PR, copied instructions:

In real life, I did the usual addition of Retype_R, hierarchy update, arch-split and then update. However, since the arch-split part first splits AARCH64, then takes the AARCH64 version of ArchCSpace_R and only fixes what broke, we ended up with a small(er) diff there (again).

Please review commit-by commit with the following notes:
- `[squash] PR: copy AARCH64 version into Retype_R` - same as last time: stop Retype_R looking like a wall of green (no need to review)
- `aarch64 refine: arch-split Retype_R` - this is the main bulk of the arch-split, dealing with AARCH64
- `[squash] copy AARCH64 ArchRetype_R to other arches` - wipes the *body* (not the header!) of other arches' ArchRetype_R with a copy of the AARCH64 version with `AARCH64` appropriately substituted (as @corlewis requested last time) - (mostly pointless to review)
- `[squash] refine: arch-split Retype_R (other arches) - result of fixing up the ArchRetype_R of other architectures - shows diff to AARCH64, small for this PR
- `refine+crefine: update for ... arch-split`

Reminder: DO NOT MERGE squashed version if it still says `aarch64 refine: arch-split`

Stats: 61 files changed, 11343 insertions(+), 24510 deletions(-)
Total: 13167 lines removed

### CODE REVIEW

File: proof/refine/Retype_R.thy [hunk 1]
```diff
@@ -12,88 +12,37 @@ theory Retype_R
...
-    | Inr (APIObjectType ArchTypes_H.NotificationObject) \<Rightarrow> Structures_A.NotificationObject
-    | Inr (APIObjectType ArchTypes_H.CapTableObject) \<Rightarrow> Structures_A.CapTableObject
-    | Inr LargePageObject \<Rightarrow> ArchObject LargePageObj
-    | Inr HugePageObject \<Rightarrow> ArchObject HugePageObj
-    | Inr PageTableObject \<Rightarrow> ArchObject PageTableObj
-    | Inr VSpaceObject \<Rightarrow> ArchObject VSpaceObj
-    | Inl (KOArch (KOASIDPool _)) \<Rightarrow> ArchObject ASIDPoolObj
-    | Inr VCPUObject \<Rightarrow> ArchObject AARCH64_A.VCPUObj
-    | _ \<Rightarrow> ArchObject SmallPageObj"
+lemmas [simp] = objBitsKO_less_word_bits
```
Comment (corlewis) [inline proof/refine/Retype_R.thy]: Should we make this `[simp]` directly in the interface in `Bits_R`?

File: proof/refine/Retype_R.thy [hunk 2]
```diff
@@ -1,92 +1,48 @@
...
 
 lemma placeNewObject_def2:
- "placeNewObject ptr val gb = createObjects' ptr 1 (injectKO val) gb"
-   apply (clarsimp simp:placeNewObject_def placeNewObject'_def
-     createObjects'_def shiftL_nat)
-  done
+  "placeNewObject ptr val gb = createObjects' ptr 1 (injectKO val) gb"
+  by (clarsimp simp:placeNewObject_def placeNewObject'_def createObjects'_def shiftL_nat)
```
Comment (corlewis) [inline proof/refine/Retype_R.thy]: Since we're already cleaning this up.
```suggestion
  by (clarsimp simp: placeNewObject_def placeNewObject'_def createObjects'_def shiftL_nat)
```

File: proof/refine/Retype_R.thy [hunk 3]
```diff
@@ -484,6 +334,318 @@ lemma ps_clearD:
...
+definition obj_relation_retype :: "Structures_A.kernel_object \<Rightarrow> Structures_H.kernel_object \<Rightarrow> bool"
+  where
+  "obj_relation_retype ko ko' \<equiv>
+    obj_bits ko \<ge> objBitsKO ko'
+    \<and> (\<forall>p. fst ` obj_relation_cuts ko p
+           = {p + x * 2 ^ (objBitsKO ko') | x. x < 2 ^ (obj_bits ko - objBitsKO ko')}
+           \<and> (\<forall>x \<in> obj_relation_cuts ko p. snd x ko ko'))"
+
+abbreviation
+ "injectKOS \<equiv> (injectKO :: ('a :: pspace_storable) \<Rightarrow> kernel_object)"
```
Comment (corlewis) [inline proof/refine/Retype_R.thy]: I know you just moved it but while we're here
```suggestion
  "injectKOS \<equiv> (injectKO :: ('a :: pspace_storable) \<Rightarrow> kernel_object)"
```

File: proof/refine/Retype_R.thy [hunk 4]
```diff
@@ -501,6 +334,318 @@ lemma ps_clearD:
...
+
+lemma createObjects_createObjects'_inv:
+  "createObjects ptr numObjects val gSize \<lbrace>P\<rbrace>
+   = createObjects' ptr numObjects val gSize \<lbrace>P\<rbrace>"
+  unfolding createObjects_def
+  by (fastforce simp: createObjects_def valid_def bind_def return_def)
+
+locale Retype_R =
+  assumes valid_obj_makeObject_tcb[simp]:
+    "valid_obj' (KOTCB makeObject) s"
```
Comment (corlewis) [inline proof/refine/Retype_R.thy]: Would it make sense to have a new lemma along the lines of `valid_arch_tcb' newArchTCB s` in the interface instead of this? Or is that just giving us more work for not much gain.

File: proof/refine/Retype_R.thy [hunk 5]
```diff
@@ -501,6 +334,318 @@ lemma ps_clearD:
...
+  assumes APIType_map2_Untyped[simp]:
+    "\<And>tp. (APIType_map2 tp = Structures_A.Untyped) = (tp = Inr (APIObjectType ArchTypes_H.Untyped))"
+  assumes APIType_map2_TCBObject[simp]:
+    "\<And>tp. (APIType_map2 tp = Structures_A.TCBObject) = (tp = Inr (APIObjectType ArchTypes_H.TCBObject))"
+  assumes APIType_capBits_generic[simp]:
+    "\<And>api us. APIType_capBits (APIObjectType api) us = APIType_capBits_gen api us"
+  assumes toAPIType_Some[simp]:
+    "\<And>ty x. (toAPIType ty = Some x) = (ty = APIObjectType x)"
+  assumes obj_relation_cuts_trivial:
+    "\<And>ptr ty. ptr \<in> fst ` obj_relation_cuts ty ptr"
```
Comment (corlewis) [inline proof/refine/Retype_R.thy]: Should this be moved to an earlier interface?

File: proof/refine/Retype_R.thy [hunk 6]
```diff
@@ -1607,1195 +1350,904 @@ next
...
-               split del: if_split)
-  apply (erule allEI, erule allEI)
-  apply (clarsimp split del: if_split)
-  apply (clarsimp split: if_split_asm simp: makeObject_cte)
-  apply (clarsimp simp: isCap_simps)
-  done
+lemma tcb_relation_retype:
+  "obj_relation_retype (default_object Structures_A.TCBObject dev n d)
+                       (KOTCB (tcbDomain_update (\<lambda>_. d) makeObject))"
+  supply tcb_bits_def[simp del] (* FIXME arch-split: we might not want this in the simpset *)
```
Comment (corlewis) [inline proof/refine/Retype_R.thy:2193]: Hmm, yeah, it does seem strange to have this in the simpset when it's an arch constant

File: proof/refine/Retype_R.thy [hunk 7]
```diff
@@ -1607,1195 +1350,904 @@ next
...
+  sum.split_asm kernel_object.split_asm
 
-definition
-  caps_no_overlap'' :: "machine_word \<Rightarrow> nat \<Rightarrow> kernel_state \<Rightarrow> bool"
-where
- "caps_no_overlap'' ptr sz s \<equiv> \<forall>cte \<in> ran (ctes_of s).
-               untypedRange (cteCap cte) \<inter> {ptr .. (ptr && ~~ mask sz) + 2 ^ sz - 1} \<noteq> {}
-               \<longrightarrow> {ptr .. (ptr && ~~ mask sz) + 2 ^ sz - 1} \<subseteq> untypedRange (cteCap cte)"
+declare hoare_in_monad_post[wp del]
+declare univ_get_wp[wp del]
```
Comment (corlewis) [inline proof/refine/Retype_R.thy:2259]: Not relevant to this PR at all but these declares should probably have a FIXME on them to be cleaned up.

File: proof/refine/AARCH64/ArchRetype_R.thy [hunk 8]
```diff
@@ -30,109 +32,80 @@ where
...
-lemma valid_obj_makeObject_tcb [simp]:
+lemma valid_obj_makeObject_tcb[Retype_R_assms, simp]:
   "valid_obj' (KOTCB makeObject) s"
   unfolding valid_obj'_def valid_tcb'_def valid_tcb_state'_def valid_arch_tcb'_def
   by (clarsimp simp: makeObject_tcb makeObject_cte tcb_cte_cases_def minBound_word newArchTCB_def
                      cteSizeBits_def)
 
-lemma valid_obj_makeObject_tcb_tcbDomain_update [simp]:
+lemma valid_obj_makeObject_tcb_tcbDomain_update[simp]:
   "d \<le> maxDomain \<Longrightarrow> valid_obj' (KOTCB (tcbDomain_update (\<lambda>_. d) makeObject)) s"
```
Comment (corlewis) [inline proof/refine/AARCH64/ArchRetype_R.thy]: Similarly to `valid_obj_makeObject_tcb`, not sure if it's worth doing but this is another lemma that feels like it could be made generic with a lower-level interface.

File: proof/refine/AARCH64/ArchRetype_R.thy [hunk 9]
```diff
@@ -0,0 +1,1869 @@
...
+
+  assumes ptr_cn: "canonical_address (ptr && ~~ mask sz)"
+  assumes sz_constrained: "sz \<le> maxUntypedSizeBits"
+
+  shows "\<lbrace>\<lambda>s. pspace_no_overlap' ptr sz s \<and> valid_pspace' s\<rbrace>
+           createNewCaps ty ptr n us dev
+         \<lbrace>\<lambda>r s. (\<forall>cap \<in> set r. s \<turnstile>' cap)\<rbrace>"
+proof -
+  note blah[simp del] = untyped_range.simps usable_untyped_range.simps atLeastAtMost_iff atLeastatMost_subset_iff atLeastLessThan_iff
+          Int_atLeastAtMost atLeastatMost_empty_iff split_paired_Ex
```
Comment (corlewis) [inline proof/refine/AARCH64/ArchRetype_R.thy]: Potential cleanup
```suggestion
  note [simp del] = untyped_range.simps usable_untyped_range.simps atLeastAtMost_iff atLeastatMost_subset_iff atLeastLessThan_iff
          Int_atLeastAtMost atLeastatMost_empty_iff split_paired_Ex
```

File: proof/refine/AARCH64/ArchRetype_R.thy [hunk 10]
```diff
@@ -3466,572 +669,659 @@ lemma createNewCaps_cte_wp_at':
...
-  and     not_0: "n\<noteq> 0"
-  shows  "\<lbrace>\<lambda>s. obj_at' P p s \<and> valid_pspace' s \<and> pspace_no_overlap' ptr sz s\<rbrace>
-  createObjects ptr n val gbits \<lbrace>\<lambda>_. obj_at' P p\<rbrace>"
-  apply (simp add: createObjects_def)
-  apply (wp createObjects_orig_obj_at'[where sz = sz])
-  using cover not_0
-  apply (clarsimp simp: cover not_0 valid_pspace'_def pspace_no_overlap'_def)
+(* FIXME arch-split: example of arch-split attempt of this kind of proof;
+   unfortunately splitting off the arch-specific part doesn't actually save space, so we will leave
+   these in Arch *)
```
Comment (corlewis) [inline proof/refine/AARCH64/ArchRetype_R.thy]: Ah, that's a pity. I guess we should keep some sort of comment like this to avoid trying to split it again, but should it stay as a FIXME? I'm not sure what is left to fix.

File: proof/refine/AARCH64/ArchRetype_R.thy [hunk 11]
```diff
@@ -5130,6 +1641,7 @@ lemma corres_retype_region_createNewCaps:
                 init_arch_objects (APIType_map2 (Inr ty)) dev y n us x;
                 return x od)
             (createNewCaps ty y n us dev)"
+  supply APIType_map2_generic[simp del]
```
Comment (corlewis) [inline proof/refine/AARCH64/ArchRetype_R.thy:1621]: This and `APIType_capBits_generic[simp del]` were needed a few times, I'm guessing to avoid warnings. Does that mean that the default simpset should be slightly tweaked inside `Arch` to avoid duplication?

File: proof/refine/ARM/ArchRetype_R.thy [hunk 12]
```diff
@@ -0,0 +1,2122 @@
...
+         (\<lambda>cns x. if x \<in> ptrs then Some us else cns x)
+     | ArchObject (SmallPageObj) \<Rightarrow> gsUserPages_update
+         (\<lambda>ups x. if x \<in> ptrs then Some ARMSmallPage else ups x)
+     | ArchObject (LargePageObj) \<Rightarrow> gsUserPages_update
+         (\<lambda>ups x. if x \<in> ptrs then Some ARMLargePage else ups x)
+     | ArchObject (SectionObj) \<Rightarrow> gsUserPages_update
+         (\<lambda>ups x. if x \<in> ptrs then Some ARMSection else ups x)
+     | ArchObject (SuperSectionObj) \<Rightarrow> gsUserPages_update
+         (\<lambda>ups x. if x \<in> ptrs then Some ARMSuperSection else ups x)
+     | _ \<Rightarrow> id"
```
Comment (corlewis) [inline proof/refine/ARM/ArchRetype_R.thy:166]:
```suggestion
  "update_gs ty us ptrs \<equiv> case ty of
       Structures_A.CapTableObject \<Rightarrow> gsCNodes_update
         (\<lambda>cns x. if x \<in> ptrs then Some us else cns x)
     | ArchObject SmallPageObj \<Rightarrow> gsUserPages_update
         (\<lambda>ups x. if x \<in> ptrs then Some ARMSmallPage else ups x)
     | ArchObject LargePageObj \<Rightarrow> gsUserPages_update
         (\<lambda>ups x. if x \<in> ptrs then Some ARMLargePage else ups x)
     | ArchObject SectionObj \<Rightarrow> gsUserPages_update
         (\<lambda>ups x. if x \<in> ptrs then Some ARMSection else ups x)
     | ArchObject SuperSectionObj \<Rightarrow> gsUserPages_update
         (\<lambda>ups x. if x \<in> ptrs then Some ARMSuperSection else ups x)
     | _ \<Rightarrow> id"
```

File: proof/refine/ARM/ArchRetype_R.thy [hunk 13]
```diff
@@ -0,0 +1,2122 @@
...
+         apply (simp_all add:objBits_simps' pageBits_def)
+  apply (rename_tac arch_kernel_object)
+  apply (case_tac arch_kernel_object)
+    apply (simp_all add: objBits_simps' vspace_bits_defs)
+  done
+
+lemma cwo_ret:
+  assumes  cover:"range_cover ptr sz v n"
+  assumes not_0:"n\<noteq> 0"
+  shows result: "\<lbrace>pspace_no_overlap' ptr sz and valid_pspace' and K (v = 12 + bs)\<rbrace>
```
Comment (corlewis) [inline proof/refine/ARM/ArchRetype_R.thy]: Might as well make this consistent across architectures
```suggestion
  assumes not_0: "n\<noteq> 0"
  assumes cover: "range_cover ptr sz v n"
  shows "\<lbrace>pspace_no_overlap' ptr sz and valid_pspace' and K (v = 12 + bs)\<rbrace>
```

File: proof/refine/ARM/ArchRetype_R.thy [hunk 14]
```diff
@@ -301,25 +293,21 @@ lemma range_cover_canonical_address':
   using unat_less_helper by blast
 
 lemma createNewCaps_valid_cap:
-  fixes ptr :: machine_word
+  fixes ptr :: word32
```
Comment (corlewis) [inline proof/refine/ARM/ArchRetype_R.thy]: I'm guessing that the `machine_word` used by `AARCH64` would be better than the `word32`?

File: proof/refine/ARM/ArchRetype_R.thy [hunk 15]
```diff
@@ -301,25 +293,21 @@ lemma range_cover_canonical_address':
...
            createNewCaps ty ptr n us dev
          \<lbrace>\<lambda>r s. (\<forall>cap \<in> set r. s \<turnstile>' cap)\<rbrace>"
 proof -
   note blah[simp del] = untyped_range.simps usable_untyped_range.simps atLeastAtMost_iff atLeastatMost_subset_iff atLeastLessThan_iff
           Int_atLeastAtMost atLeastatMost_empty_iff split_paired_Ex
-  note if_split_def[split del] = if_split
-  note createObjects_nonzero' = createObjects_nonzero[OF not_0]
-  note cwo_ret' = cwo_ret[OF not_0]
+  note if_split[split del]
+  note projectKOs[simp del]
```
Comment (corlewis) [inline proof/refine/ARM/ArchRetype_R.thy]: This should possibly have a FIXME, I feel like we now want to move towards all of the proofs consistently using `projectKOs[simp]`.

File: proof/refine/ARM/ArchRetype_R.thy (hunk 12 above)
Comment (corlewis) [reply proof/refine/ARM/ArchRetype_R.thy:166]: Same for `ARM_HYP`

File: proof/refine/ARM/ArchRetype_R.thy (hunk 13 above)
Comment (corlewis) [reply proof/refine/ARM/ArchRetype_R.thy]: Same for `ARM_HYP`

File: proof/refine/ARM/ArchRetype_R.thy (hunk 14 above)
Comment (corlewis) [reply proof/refine/ARM/ArchRetype_R.thy]: Same for `ARM_HYP`

File: proof/refine/ARM/ArchRetype_R.thy (hunk 15 above)
Comment (corlewis) [reply proof/refine/ARM/ArchRetype_R.thy]: Same for `ARM_HYP`

File: proof/crefine/AARCH64/Retype_C.thy [hunk 16]
```diff
@@ -7502,6 +7501,7 @@ lemma createObject_untypedRange:
             (toAPIType ty \<noteq> Some apiobject_type.Untyped \<longrightarrow> Q {} s)\<rbrace>"
   shows "\<lbrace>P\<rbrace> createObject ty ptr us dev\<lbrace>\<lambda>m s. Q (untypedRange m) s\<rbrace>"
   including no_pre
+  supply toAPIType_Some[simp del]
```
Comment (corlewis) [inline proof/crefine/AARCH64/Retype_C.thy:7504]: Any thoughts on this needing to be removed from the simpset in quite a few proofs? Is it a sign that something isn't set-up quite right, or is it more to do with these being old proofs?

File: proof/refine/X64/Detype_R.thy [hunk 17]
```diff
@@ -961,6 +961,10 @@ lemma detype_ready_queues_relation:
   apply (fastforce simp add: detype_def)
   done
 
+lemma insert_id_ksArchState_upd:
+  "s = s\<lparr>ksArchState := id (ksArchState s)\<rparr>"
+  by simp
```
Comment (corlewis) [inline proof/refine/X64/Detype_R.thy]: This doesn't seem to be used.

**Comment by corlewis** [comment]
> This PR has the same diff-reducing tech as the TcbAcc_R PR, copied instructions:

This is still very much appreciated, but just commenting that unfortunately it hasn't been quite as effective in this PR. I think it's due to more content being moved around inside of files, which confuses the diff and makes it harder to see where the real changes are. Even more unfortunately, I don't have any suggestions for how to improve this.

File: proof/refine/Retype_R.thy (hunk 1 above)
Comment (Xaphiosis) [reply proof/refine/Retype_R.thy]: very well spotted, will do

File: proof/refine/Retype_R.thy (hunk 2 above)
Comment (Xaphiosis) [reply proof/refine/Retype_R.thy]: done for next commit

File: proof/refine/Retype_R.thy (hunk 3 above)
Comment (Xaphiosis) [reply proof/refine/Retype_R.thy]: done for next commit

File: proof/refine/Retype_R.thy (hunk 1 above)
Comment (Xaphiosis) [reply proof/refine/Retype_R.thy]: done in next commit

File: proof/refine/Retype_R.thy (hunk 4 above)
Comment (Xaphiosis) [reply proof/refine/Retype_R.thy]: in terms of arch-split concepts, yours is the better approach. I can prove valid_obj_makeObject_tcb in the locale and make that simp as well, hopefully it won't break much.

File: proof/refine/Retype_R.thy (hunk 5 above)
Comment (Xaphiosis) [reply proof/refine/Retype_R.thy]: I'll look for candidate spots

File: proof/refine/Retype_R.thy (hunk 6 above)
Comment (Xaphiosis) [reply proof/refine/Retype_R.thy:2193]: can't do too much about it now since I'd have to plunge into AInvs, and the tcb_bits/word_bits/cte_size_bits unfolding sins are stronger there, hence the FIXME

File: proof/refine/Retype_R.thy (hunk 7 above)
Comment (Xaphiosis) [reply proof/refine/Retype_R.thy:2259]: ~~I'll try a cleanup pass today~~ actually I have no idea, will go with the FIXME

File: proof/refine/AARCH64/ArchRetype_R.thy (hunk 8 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchRetype_R.thy]: well spotted, this can be made generic it seems. done on AARCH64 so far, will have to update the rest

File: proof/refine/AARCH64/ArchRetype_R.thy (hunk 9 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchRetype_R.thy]: will do

File: proof/refine/AARCH64/ArchRetype_R.thy (hunk 10 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchRetype_R.thy]: This FIXME was left in to attract attention during the PR and hopefully have some fresher minds throw some advice my way. As you can see, I've only done it for this one lemma, despite the shape of it occurring a fair few times. I guess I can leave the comment to remember why this one is different?

File: proof/refine/AARCH64/ArchRetype_R.thy (hunk 11 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchRetype_R.thy:1621]: This is an ongoing issue... the problem with the non-arch-split stuff that comes after the current PR is that it uses `interpretation Arch .` ... which dumps Arch stuff into the generic context, and therefore making it look like we need to [simp del] the parts that are a generic simp. However, I will only know the situation when I get to try arch-split the lemmas where that [simp del] is happening, and having the simp there will hopefully yield statements that are no longer arch-specific (which the full definition of `APIType_map2` definitely is).
The gamble feels worthwhile for arch-split, even if it does require a few simp dels at the moment... but I could still turn out to be wrong about it in the end, once the potentially generic proof parts are assessed. Thoughts?

File: proof/refine/ARM/ArchRetype_R.thy (hunk 12 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchRetype_R.thy:166]: will do

File: proof/refine/ARM/ArchRetype_R.thy (hunk 13 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchRetype_R.thy]: will do

File: proof/refine/ARM/ArchRetype_R.thy (hunk 14 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchRetype_R.thy]: cheers, will do

File: proof/refine/ARM/ArchRetype_R.thy (hunk 15 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchRetype_R.thy]: will try to clear these, since this is a Retype_R PR, now's the time to fix them

File: proof/crefine/AARCH64/Retype_C.thy (hunk 16 above)
Comment (Xaphiosis) [reply proof/crefine/AARCH64/Retype_C.thy:7504]: I'm not sure. It's a similar situation to `APIType_map2_generic` where it'll split off the generic part from the arch part. At the moment it's a bit messy, and so this is the quickest fix without digging much into old proofs. I think saying `simp del` to this one is a bit like saying "I give up on arch-split in this lemma". What do you think?

File: proof/refine/X64/Detype_R.thy (hunk 17 above)
Comment (Xaphiosis) [reply proof/refine/X64/Detype_R.thy]: thanks, debugging leftover

**Comment by Xaphiosis** [comment]
Thank you for the very thorough review! Especially thanks for reading the commit messages and finding both a typo and a squash-derp.

> This is still very much appreciated, but just commenting that unfortunately it hasn't been quite as effective in this PR. I think it's due to more content being moved around inside of files, which confuses the diff and makes it harder to see where the real changes are. Even more unfortunately, I don't have any suggestions for how to improve this.

The problem with Retype_R is that it was harder than it appears. Things kept breaking, had to go back and forth so many times between arches to finally get it to converge, and even back out of some things I thought would be generic. So the diff could only be so nice in the end.

What are your thoughts on the oddball interface at the end of ArchCSpace_R and the unfortunate case of `createNewCaps_obj_at''`?

File: proof/refine/AARCH64/ArchRetype_R.thy (hunk 10 above)
Comment (lsf37) [reply proof/refine/AARCH64/ArchRetype_R.thy]: Leaving in the split and the comment as an example for posterity sounds good. It shows that we thought about it and why we didn't do more of it. That's valuable info.

I would remove the FIXME tag, because we don't actually want to fix anything here.

File: proof/refine/AARCH64/ArchRetype_R.thy (hunk 11 above)
Comment (lsf37) [reply proof/refine/AARCH64/ArchRetype_R.thy:1621]: Happy to gamble on this one. If your gut feeling says this might be worthwile, let's try it. We can always go back and tweak things if we really care strongly about it.

File: proof/refine/Retype_R.thy (hunk 6 above)
Comment (lsf37) [reply proof/refine/Retype_R.thy:2193]: Let's keep the FIXME, good reminder that we might want to do something about this.

There was a proposal from the Microkit side to print object sizes to a json file during build, because they are trying to run the same code on different kernel configs. In the distant future we could read object sizes from that same file, and then we'd really want all of these to not be unfolded all the time.

But not for now.

File: proof/refine/Retype_R.thy (hunk 7 above)
Comment (lsf37) [reply proof/refine/Retype_R.thy:2259]: Agree with Corey, something cleanup-worthy is going on here. FIXME appreciated.

File: proof/crefine/AARCH64/Retype_C.thy (hunk 16 above)
Comment (lsf37) [reply proof/crefine/AARCH64/Retype_C.thy:7504]: Is this to avoid warnings or do things break if we have this `[simp]`?

Comment (lsf37) [reply proof/crefine/AARCH64/Retype_C.thy:7504]: (If warnings only, we could add a comment)

**Review by lsf37 — APPROVED** [review]
I have nothing to add to Corey's comments (very thorough).

Also agree that 13k lines removed is not bad at all. It was a lot of work, but it's Retype, that's some of less pleasant stuff around.

File: proof/refine/Retype_R.thy (hunk 5 above)
Comment (Xaphiosis) [reply proof/refine/Retype_R.thy]: moved to StateRelationLemmas

File: proof/refine/AARCH64/ArchRetype_R.thy (hunk 10 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchRetype_R.thy]: will drop the FIXME tag then

File: proof/crefine/AARCH64/Retype_C.thy (hunk 16 above)
Comment (Xaphiosis) [reply proof/crefine/AARCH64/Retype_C.thy:7504]: It breaks this proof, because it does not expecting toAPIType to unfold in any way - but `toAPIType_Some` does unfold the generic part in the case when we know it's Some; which forces dealing with generic and arch-specific differently. The proof wants to deal with everything as if it's arch-specific, and then unfold at the leafs.

File: proof/refine/AARCH64/ArchRetype_R.thy (hunk 11 above)
Comment (corlewis) [reply proof/refine/AARCH64/ArchRetype_R.thy:1621]: You have by far the most experience here so happy to go with your feeling as well. Would it make sense to mark any of them with a FIXME though, to make sure we look at it again once they're arch-split?

File: proof/refine/ARM/ArchRetype_R.thy (hunk 13 above)
Comment (corlewis) [reply proof/refine/ARM/ArchRetype_R.thy]: Minor enough to not bother with if you don't feel like it, but it looks like you can still remove the `result:` from the `shows` line on those architectures.

**Comment by corlewis** [comment]
> What are your thoughts on the oddball interface at the end of ArchCSpace_R and the unfortunate case of `createNewCaps_obj_at''`?

No particular insights or suggestions for improvements. It's a bit hard to get a good feeling for them just from the diff but they seem reasonable and are nicely commented. I guess the requalifies at the end of ArchCSpace_R could be moved to a generic file to reduce duplication (probably to Retype_R), but then they would be separated from their definitions and that could just cause more confusion.

File: proof/refine/ARM/ArchRetype_R.thy (hunk 13 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchRetype_R.thy]: ah, missed that. thanks. will do

File: proof/refine/AARCH64/ArchRetype_R.thy (hunk 11 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/ArchRetype_R.thy:1621]: Well, for the ones in ArchRetype_R I think the only uses are where I wanted to keep the old proof and couldn't arch-split, so not much point adding them there. In the later theories, there's only one or two uses, and it'll become apparent when I try to arch-split those whether to keep them or not.
